US04363816
1,2-Dimethyl-4-[(4-methylpiperazin-l-yl)acetyl]-1,4,9,10-tetrahydropyrrolo[3,2-b][1,5]benzodiazepin-10-one
A solution of 303 mg (0.001 mole) of 4-chloroacetyl-1,2-dimethyl-1,4,9,10-tetrahydropyrrolo[3,2-b][1,5]benzodiazepin-10-one and 200 mg (0.002 mole) of N-methylpiperazine in 10 ml of dry dioxane is boiled under reflux for 2 hours. 20 ml of saturated aqueous sodium bicarbonate solution are added thereto, and then the mixture is extracted several times with ethyl acetate. The combined extracts are dried over sodium sulfate and concentrated in vacuo. The resulting oil is chromatographed on neutral silica gel (methylene chloride/methanol). Yield: 280 mg.

reactant | 4-chloroacetyl-1,2-dimethyl-1,4,9,10-tetrahydropyrrolo[3,2-b][1,5]benzodiazepin-10-one | 0.001 mole, 303 mg | ClCC(=O)N1C2=C(C(NC3=C1C=CC=C3)=O)N(C(=C2)C)C | C15H14ClN3O2
reactant | N-methylpiperazine | 0.002 mole, 200 mg | CN1CCNCC1 | C5H12N2
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 1,2-Dimethyl-4-[(4-methylpiperazin-l-yl)acetyl]-1,4,9,10-tetrahydropyrrolo[3,2-b][1,5]benzodiazepin-10-one | CN1C(=CC=2N(C3=C(NC(C21)=O)C=CC=C3)C(CN3CCN(CC3)C)=O)C | C20H25N5O2
